US06660753B2
A mixture of 3-(2-pyridyl)-5-(3-cyano-5-hydroxyphenyl)-1,2,4-oxadiazole (80 mg, 0.30 mmol), potassium carbonate (84 mg, 0.61 mmol) and tert-butylbromoacetate (67 μL, 0.46 mmol) in N,N-dimethylformamide (1 mL) was heated in a sealed vial at 90° C. for 1 hour. The reaction was cooled, diluted with dichloromethane, washed with water (3×) and saturated brine, filtered and concentrated. Silica gel chromatography using hexanes:ethyl acetate:dichloromethane 3.5:0.5:4 afforded 62 mg (62%) 3-(2-pyridyl)-5-(3-cyano-5-(2-tert-butoxy-2-oxoethoxy)phenyl)-1,2,4-oxadiazole: 1H NMR (CDCl3), δ (ppm): 8.86 (d, 1H), 8.23 (d, 1H), 8.21 (s, 1H), 7.98 (s, 1H), 7.91 (t, 1H), 7.50 (t, 1H), 7.28 (s, 1H), 5.30 (s, 2H), 1.52 (s, 9H).

reactant | 3-(2-pyridyl)-5-(3-cyano-5-hydroxyphenyl)-1,2,4-oxadiazole | 0.30 mmol, 80 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)O)C#N | C14H8N4O2
reactant | potassium carbonate | 0.61 mmol, 84 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butylbromoacetate | 0.46 mmol, 67 μL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(2-pyridyl)-5-(3-cyano-5-(2-tert-butoxy-2-oxoethoxy)phenyl)-1,2,4-oxadiazole | 62 mg, 62% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)OCC(=O)OC(C)(C)C)C#N | C20H18N4O4
